US05073639
N-(2-Bromoethyl)-2-nitro-1H-imidazole-1-ethanamine, monohydrobromide
To 3.5 g (15 mmol) of 3-[2-(2-nitro-1H-imidazol-1-yl)ethyl-2-oxazolidinone was added 30 ml of 31% HBr/acetic acid and the mixture was stirred for 18 hours at 20°-25° C. The mixture was diluted with ether and methanol and the resulting solid was collected. Recrystallization from ethanol/water gave 3.0 g of the desired product, N-(2-bromoethyl)-2-nitro-1H-imidazole-1-ethanamine, monohydrobromide (54%): mp 103°-104° C.

reactant | 2-(2-nitro-1H-imidazol-1-yl)ethyl-2-oxazolidinone | [N+](=O)([O-])C=1N(C=CN1)CCN1C(OCC1)=O | C8H10N4O4
reactant | HBr acetic acid | 30 ml | Br.C(C)(=O)O
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | N-(2-Bromoethyl)-2-nitro-1H-imidazole-1-ethanamine, monohydrobromide | 3.0 g | Br.BrCCNCCN1C(=NC=C1)[N+](=O)[O-] | InChI=1S/C7H11BrN4O2.BrH/c8-1-2-9-3-5-11-6-4-10-7(11)12(13)14;/h4,6,9H,1-3,5H2;1H
